US04195023
A mixture of 2-furoyl chloride (0.1 mole) and 3-oxo-1,2-benzisothiazoline-6-carboxylic acid methyl ester, 1,1-dioxide, sodium salt, from example 3C, above, is refluxed in 100 ml of tetrahydrofuran for 3 hours. The reaction mixture is filtered hot and the filtrate is concentrated to give the product. The product is triturated with ether and air dried to give 2-(2-furoyl)-3-oxo-1,2-benzisothiazoline-6-carboxylic acid methyl ester, 1,1-dioxide.

reactant | 2-furoyl chloride | 0.1 mole | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 3-oxo-1,2-benzisothiazoline-6-carboxylic acid methyl ester | COC(=O)C1=CC2=C(C(NS2)=O)C=C1 | C9H7NO3S
reactant | sodium | [Na] | Na
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2-furoyl)-3-oxo-1,2-benzisothiazoline-6-carboxylic acid methyl ester | COC(=O)C1=CC2=C(C(N(S2)C(=O)C=2OC=CC2)=O)C=C1 | C14H9NO5S
